US08563565B2
(1) Synthesis of 2-methoxy-4,6-dimethylpyridine
2-chloro-4,6-dimethylpyridine (CAS number: 30838-93-8) (400 mg) was added to DMF (3.3 mL). Sodium methoxide (28% solution in methanol, 2.6 mL) was added to the solution, and the mixture was stirred at 100° C. for 12 hours. The reaction mixture was partitioned by adding ethyl acetate and water. The organic layer was dried over anhydrous magnesium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure to give the title compound (380 mg) as a 50% solution in DMF.

reactant | 2-chloro-4,6-dimethylpyridine | 400 mg | ClC1=NC(=CC(=C1)C)C | C7H8ClN
reactant | Sodium methoxide | 2.6 mL | C[O-].[Na+]
solvent | DMF | 3.3 mL | CN(C)C=O | C3H7NO
product | 2-methoxy-4,6-dimethylpyridine | 380 mg | COC1=NC(=CC(=C1)C)C | C8H11NO
